US06727264B1
2-METHYL-N-(3-{1-[(2S)-2-METHYL-3-(2,4,5-TRIFLUOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 1-{[(2R)-3-chloro-2-methylpropyl]oxy}-2,4,5-trifluorobenzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 449.2 (M+H)+.

reactant | 1-{[(2R)-3-chloro-2-methylpropyl]oxy}-2,4,5-trifluorobenzene | ClC[C@@H](COC1=C(C=C(C(=C1)F)F)F)C | C10H10ClF3O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[(2S)-2-METHYL-3-(2,4,5-TRIFLUOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)C[C@@H](COC1=C(C=C(C(=C1)F)F)F)C)C | C25H31F3N2O2
